US08791123B2
Step A: Preparation of 5-((R)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)-N—(((S)-2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)pyrazolo[1,5-a]pyrimidine-3-carboxamide
To a suspension of (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (Preparation C, 100 mg, 0.290 mmol) in CCl4 (1.5 mL) was added thionyl chloride (0.10 mL, 1.37 mmol) and the mixture was heated at reflux for 2.5 hours. The mixture was cooled to ambient temperature and was concentrated to give a residual brittle foam. The foam was dissolved in dry THF (2.0 mL) and the solution was sequentially treated with DMAP, DIEA and (S)—O-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)hydroxylamine (85.5 mg, 0.581 mmol). The reaction was stirred at ambient temperature for 4.5 hours and was concentrated to approx. 0.5 mL. The mixture was diluted with H2O (5 mL) and extracted with 50% EtOAc-hexanes. The combined extracts were washed with 1M HCl, H2O, 1M Na2CO3 and saturated NaCl. The solution was dried over MgSO4 and activated carbon, then filtered through a short SiO2 plug, eluting first with 50% EtOAc-hexanes then 10% MeOH-EtOAc. The MeOH-EtOAc pool was concentrated to give a colorless foam. The foam was dissolved in minimal CH2Cl2 and treated with hexanes to give a white suspension. The suspension was concentrated to afford the title compound as white solid that was dried in vacuum (137 mg, 100%). MS (apci) m/z=474.1 (M+H).

reactant | (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.290 mmol, 100 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O | C17H14F2N4O2
reactant | thionyl chloride | 1.37 mmol, 0.10 mL | S(=O)(Cl)Cl | Cl2OS
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)—O-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)hydroxylamine | 0.581 mmol, 85.5 mg | CC1(OC[C@H](O1)CON)C | C6H13NO3
solvent | CCl4 | 1.5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-((R)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)-N—(((S)-2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)pyrazolo[1,5-a]pyrimidine-3-carboxamide | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)NOC[C@H]2OC(OC2)(C)C | C23H25F2N5O4
